US05436233
4-(1,1-dimethyl-2-methoxyethyl)amino-2-chloroquinazoline
A mixture of 2,4-dichloroquinazoline (995 mg, 5 mmol), triethylamine (0.7 ml, 5 mmol) and 1,1-dimethyl-2-methoxyethylamine (30 mL, 0.5M methanol sol., 15 mmol) was stood at room temperature for 1 week. The reaction mixture was concentrated and partitioned between ethyl acetate and water. Organic layer was washed with water and brine, dried over MgSO4 and concentrated. The residue was purified on 50 g of silica gel column eluting with 50% ethyl acetate in hexane to obtain the title compound (176 mg) as a white solid.

reactant | 2,4-dichloroquinazoline | 5 mmol, 995 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethyl-2-methoxyethylamine | 15 mmol, 0.5M, 30 mL | CC(COC)(C)N | C5H13NO
product | 4-(1,1-dimethyl-2-methoxyethyl)amino-2-chloroquinazoline | 176 mg | CC(COC)(C)NC1=NC(=NC2=CC=CC=C12)Cl | C13H16ClN3O
